US04440774
B. 2-(3-pyridyl)-4-(4-hydroxyphenyl)imidazole
A mixture of 4-(p-methoxyphenyl)-2-(3-pyridyl)imidazole (2.0 g.) and 48% HBr (100 ml.) is heated to reflux for 20 hrs. After cooling, the precipitate is filtered off and crystallized from isopropanol-methanol to give 2.05 g. of 2-(3-pyridyl)-4-(4-hydroxyphenyl)imidazle of m.p. 315°-318° C.

reactant | 4-(p-methoxyphenyl)-2-(3-pyridyl)imidazole | 2.0 g | COC1=CC=C(C=C1)C=1N=C(NC1)C=1C=NC=CC1 | C15H13N3O
solvent | HBr | 100 ml | Br | BrH
product | 2-(3-pyridyl)-4-(4-hydroxyphenyl)imidazole | N1=CC(=CC=C1)C=1NC=C(N1)C1=CC=C(C=C1)O | C14H11N3O
